US08877751B2
Preparation of 3-(4-methylpiperazin-1-yl)propyl [3-(5-chloro-2-oxobenzothiazol-3-ylmethyl)phenyl]carbamate (“A13”)
173 mg (0.36 mmol) of 3-(3-aminobenzyl)-5-chloro-3H-benzothiazol-2-one and 198 mg (0.67 mmol) of 3-(4-methylpiperazin-1-yl)propane 1-chloroformate are suspended in 3 ml of THF, and 253 μl (1.46 mmol) of DIPEA are added. The reaction mixture is stirred overnight at room temperature. 50 ml of dichloromethane are added to the suspension, which is subsequently washed with 10 ml of 2N NaOH, dried and evaporated. The crude product is purified by means of preparative HPLC. The product “A13” is in the form of the trifluoroacetate.

reactant | 3-(3-aminobenzyl)-5-chloro-3H-benzothiazol-2-one | 0.36 mmol, 173 mg | NC=1C=C(CN2C(SC3=C2C=C(C=C3)Cl)=O)C=CC1 | C14H11ClN2OS
reactant | 3-(4-methylpiperazin-1-yl)propane 1-chloroformate | 0.67 mmol, 198 mg | ClC(=O)O.CN1CCN(CC1)CCC
reactant | DIPEA | 1.46 mmol, 253 μl | CCN(C(C)C)C(C)C | C8H19N
reactant | dichloromethane | 50 ml | ClCCl | CH2Cl2
solvent | THF | 3 ml | C1CCOC1 | C4H8O
product | 3-(4-methylpiperazin-1-yl)propyl [3-(5-chloro-2-oxobenzothiazol-3-ylmethyl)phenyl]carbamate | ClC=1C=CC2=C(N(C(S2)=O)CC=2C=C(C=CC2)NC(OCCCN2CCN(CC2)C)=O)C1 | C23H27ClN4O3S
